US08377874B2
Step 3: 1-t-Butyl 2-methyl (2S,4R)-4-[(3-bromo-7-methoxyquinolin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate
To a solution of 3-bromo-7-methoxyquinolin-2(1H)-one (1.31 g, 5.17 mmol) and 1-tert-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate (2.0 g, 4.31 mmol) in NMP (21.5 mL), Cs2CO3 (2.11 g, 6.46 mmol) was added, and the reaction mixture was stirred for 40 hours at 40° C. An additional portion of 1-t-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate (1.0 g, 2.16 mmol) was added, and the reaction mixture was stirred at 40° C. for 16 hours. The reaction mixture was cooled and poured onto a mixture of EtOAc and H2O, and the layers were separated. The organic layer was washed with H2O (2×), NaHCO3 (2×) and brine, dried over Mg2SO4, filtered and concentrated. The product was used with no further purification. LRMS (M+H-Boc)+=381.2.

reactant | 3-bromo-7-methoxyquinolin-2(1H)-one | 5.17 mmol, 1.31 g | BrC=1C(NC2=CC(=CC=C2C1)OC)=O | C10H8BrNO2
reactant | 1-tert-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate | 4.31 mmol, 2.0 g | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22BrNO7S
reactant | Cs2CO3 | 6.46 mmol, 2.11 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-t-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate | 2.16 mmol, 1.0 g | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22BrNO7S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 21.5 mL | CN1CCCC1=O | C5H9NO
solvent | H2O | O | H2O
product | 1-t-Butyl 2-methyl (2S,4R)-4-[(3-bromo-7-methoxyquinolin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate | BrC=1C(=NC2=CC(=CC=C2C1)OC)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C21H25BrN2O6
